US08563576B2
4-Bromo-2-(1-trityl-1H-pyrazolo[3,4-b]pyridin-3-yl)thiazole
A solution of 3-(4-bromothiazol-2-yl)-1H-pyrazolo[5,4-b]pyridine (161 mg, 0.5727 mmol) in DMF (3 mL) was cooled to 0° C. then sodium hydride (27.49 mg, 0.6872 mmol) was added in one portion. Stirred at 0° C. for 30 mins before (chloro-diphenyl-methyl)benzene (167.6 mg, 0.6013 mmol) was added. Ice-bath removed and stirred at room temperature for 2 h. Quenched with water, diluted with EtOAc. Organic layer then collected, washed with brine, dried (MgSO4), filtered and concentrated in vacuo.

reactant | 3-(4-bromothiazol-2-yl)-1H-pyrazolo[5,4-b]pyridine | 0.5727 mmol, 161 mg | BrC=1N=C(SC1)C1=NNC2=NC=CC=C21 | C9H5BrN4S
reactant | sodium hydride | 0.6872 mmol, 27.49 mg | [H-].[Na+]
reactant | (chloro-diphenyl-methyl)benzene | 0.6013 mmol, 167.6 mg | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-2-(1-trityl-1H-pyrazolo[3,4-b]pyridin-3-yl)thiazole | BrC=1N=C(SC1)C1=NN(C2=NC=CC=C21)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C28H19BrN4S
